US04496755
902 mg (3.00 mmols) of (+)-1-(6-methoxy-2-naphthyl)-2-(ethoxycarbonyl)amino-1-propanone and 6 ml of methyl orthoformate were stirred in 6 ml of anhydrous methanol at room temperature. 0.05 ml of methanesulfonic acid was added to the mixture which was then refluxed for 48 hours while stirring. The reaction mixture was cooled with ice and 20 ml of a saturated aqueous sodium bicarbonate solution was added in one portion. The mixture was extracted with methylene chloride (20 ml×2) and the extract was washed with water (20 ml×1), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The oily residue was purified by column chromatography [silica gel, ethyl acetate-hexane (1:2)] to obtain 781 mg of (+)-1-(6-methoxy-2-naphthyl)-2-(ethoxycarbonyl)amino-1-propanone dimethyl acetal as a colorless oily substance. Yield, 75%.

reactant | (+)-1-(6-methoxy-2-naphthyl)-2-(ethoxycarbonyl)amino-1-propanone | 3.00 mmols, 902 mg | COC=1C=C2C=CC(=CC2=CC1)C(C(C)NC(=O)OCC)=O | C17H19NO4
reactant | methyl orthoformate | 6 ml | C(OC)([O-])[O-]
reactant | methanesulfonic acid | 0.05 ml | CS(=O)(=O)O | CH4O3S
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 6 ml | CO | CH4O
product | (+)-1-(6-methoxy-2-naphthyl)-2-(ethoxycarbonyl)amino-1-propanone dimethyl acetal | 781 mg | COC(C(C)NC(=O)OCC)(C1=CC2=CC=C(C=C2C=C1)OC)OC | C19H25NO5
